US08791100B2
1. 2-Bromo-4-[1,3]dioxolan-2-yl-5-fluoro-pyridine, INT 44
A mixture of 2-bromo-5-fluoroisonicotinaldehyde (495 mg, 2.43 mmol), ethylene glycol (0.27 mL, 4.85 mmol) and p-toluenesulfonic acid monohydrate (508 mg, 2.67 mmol) in toluene (13.5 mL) was refluxed for 4 hours. The mixture was concentrated and taken up in CH2Cl2, washed with 1 M NaOH, dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash chromatography on silica gel (cyclohexane/EtOAc) to give INT 44.

reactant | 2-bromo-5-fluoroisonicotinaldehyde | 2.43 mmol, 495 mg | BrC=1C=C(C=O)C(=CN1)F | C6H3BrFNO
reactant | ethylene glycol | 4.85 mmol, 0.27 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 2.67 mmol, 508 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 13.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-4-[1,3]dioxolan-2-yl-5-fluoro-pyridine | BrC1=NC=C(C(=C1)C1OCCO1)F | C8H7BrFNO2
